US07678820B2
To a solution of 2-{4-[5-(4-fluoro-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl}acetamide (100 mg) and (2R)-1,1,1-trifluoropropane-2-ol (109 mg) in DMF (3 ml) was added 60% NaH (17 mg) at 0° C., followed by stirring at 80° C. for 4 hours. The reaction solution was added with water (15 ml) to complete the reaction, filtered, and then dried. The obtained powder was purified by silica gel column chromatography (chloroform:CH3OH=100:0 to 95:5), and crystallized with diisopropyl ether to obtain 2-[4-(5-{3-methyl-4-[(1R)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetamide (70 mg) as a pale yellow solid.

reactant | 2-{4-[5-(4-fluoro-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl}acetamide | 100 mg | FC1=C(C=C(C=C1)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N)C | C19H15FN4O2
reactant | (2R)-1,1,1-trifluoropropane-2-ol | 109 mg | FC([C@@H](C)O)(F)F | C3H5F3O
reactant | NaH | 17 mg | [H-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[4-(5-{3-methyl-4-[(1R)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetamide | 70 mg | CC=1C=C(C=CC1O[C@@H](C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N | C22H19F3N4O3
